US08202856B2
Step 2: 6-{5-[1-(2-fluorophenyl)-5-pyridin-4-yl-1H-1,2,3-triazol-4-yl]-1,2,4-oxadiazol-3-yl}indoline
The title compound was prepared following the procedure described for Example 156, but using 1-(6-(5-(1-(2-fluorophenyl)-5-(pyridin-4-yl)-1H-1,2,3-triazol-4-yl)-1,2,4-oxadiazol-3-yl)indolin-1-yl)ethanone, obtained in Step 1, (101 mg; 0.22 mmol). The solvent was removed in vacuo to afford a purple oil which was dissolved in HCl (1 M, 1 mL) and MeOH (1 mL). The solution was passed through an SCX column eluting with MeOH (50 mL) followed by NH3 (1 M in MeOH, 50 mL). The solvent was removed in vacuo from the fractions containing product to afford Example 157 as a yellow solid. 1H NMR: (DMSO-d5, 400 MHz) δ 8.74 (2H, d, J=5.2 Hz), 7.90 (1H, t, J=7.7 Hz), 7.77-7.68 (1H, m), 7.60 (2H, d, J=5.2 Hz), 7.55-7.41 (2H, m), 7.24-7.15 (2H, m), 7.10-6.95 (1H, m), 5.89 (1H, s), 3.56-3.44 (2H, m), 3.01 (2H, t, J=8.6 Hz). LC/MS (Method C): 426 (M+H)+. HPLC (Method I) Rt 14.83 min (Purity: 95.2%).

reactant | 1-(6-(5-(1-(2-fluorophenyl)-5-(pyridin-4-yl)-1H-1,2,3-triazol-4-yl)-1,2,4-oxadiazol-3-yl)indolin-1-yl)ethanone | FC1=C(C=CC=C1)N1N=NC(=C1C1=CC=NC=C1)C1=NC(=NO1)C1=CC=C2CCN(C2=C1)C(C)=O | C25H18FN7O2
solvent | HCl | 1 M, 1 mL | Cl | ClH
solvent | MeOH | 1 mL | CO | CH4O
product | 6-{5-[1-(2-fluorophenyl)-5-pyridin-4-yl-1H-1,2,3-triazol-4-yl]-1,2,4-oxadiazol-3-yl}indoline | FC1=C(C=CC=C1)N1N=NC(=C1C1=CC=NC=C1)C1=NC(=NO1)C1=CC=C2CCNC2=C1 | C23H16FN7O
